US07384934B2
2(S)-(2(R)-Hydroxypropyl)piperazine
To a solution of 2(S)-(2(S)-hydroxypropyl) piperazine-1,4-dicarboxylic acid di-tert-butyl ester and 2(S)-(2(R)-hydroxypropyl) piperazine-1,4-dicarboxylic acid di-tert-butyl ester (5.11 g, 14.8 mmol) in dichloromethane (100 mL) stirring at 0° C., add trifluoroacetic acid (25 mL). Warm the mixture to room temperature and stir. After 18 hours evaporate to a yellow oil. Dilute the mixture with methanol and apply to a 60 g SCX column. Wash with methanol and elute with 2N ammonia in methanol to obtain the title compound (mixture of diastereoisomers) as an oil (1.932 g, 90%): mass spectrum (APCI): m/z =145.1 (M+1).

reactant | 2(S)-(2(S)-hydroxypropyl) piperazine-1,4-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C[C@H](C)O | C17H32N2O5
reactant | 2(S)-(2(R)-hydroxypropyl) piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 14.8 mmol, 5.11 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C[C@@H](C)O | C17H32N2O5
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2(S)-(2(R)-Hydroxypropyl)piperazine | 1.932 g, 90% | O[C@@H](C[C@@H]1NCCNC1)C | C7H16N2O
